US09227976B2
Step 3: 4-chloro-1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazine (Compound Iz)
A suspension of 1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazin-4-ol (90 mg) in POCl3 (6 mL) and CH2Cl2 (3 mL) was heated to 60° C. for 2.5 h. The mixture was concentrated in vacuo and the residue was partitioned between CH2Cl2 and sat. aq. NaHCO3 solution. The layers were separated and the aqueous was extracted with CH2Cl2, the combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by preparative HPLC to provide Compound Iz (12 mg).

reactant | 1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazin-4-ol | 90 mg | CN1CCN(CC1)CCN1N=C(C2=C1N=NC(=C2O)C2=CC=CC=C2)N2CCCC2 | C22H29N7O
reactant | POCl3 | 6 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-1-[2-(4-methylpiperazin-1-yl)ethyl]-5-phenyl-3-pyrrolidin-1-yl-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2N2CCCC2)CCN2CCN(CC2)C | C22H28ClN7
